US07175871B2
Decanal diethyl acetal was prepared by reacting 316 g decanal with 354 g triethyl orthoformate in the presence of 7.6 g ammonium nitrate dissolved in 20 ml. ethanol at a temperature of 50° C. for a period of time of 4 hours. The resulting product was quenched with 32 g sodium methoxide and distilled at 170° C. at 8.0 mm Hg pressure. Then, into a 2 liter reaction flask equipped with stirrer, thermometer, heating mantle, addition funnel, vacuum apparatus, and reflux condenser the following ingredients are added at 20°:

reactant | decanal | 316 g | C(CCCCCCCCC)=O | C10H20O
reactant | triethyl orthoformate | 354 g | C(OCC)(OCC)OCC | C7H16O3
reactant | ammonium nitrate | 7.6 g | [N+](=O)([O-])[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | Decanal diethyl acetal | C(C)OC(CCCCCCCCC)OCC | C14H30O2
